US07723332B2
According to general procedure B, 4-bromo-N-cyclopropyl-2,5-difluorobenzenesulfonamide (150 mg, 0.5 mmol), 5-cyano-1-methyl-1H-pyrrol-2-ylboronic acid (90 mg, 0.60 mmol), potassium fluoride (96 mg, 1.65 mmol), and tris(dibenzylideneacetone)dipalladium (12 mg, 0.013 mmol) were placed in an oven dried flask under nitrogen and dry THF (1.3 mL) was added. Tri-t-butylphosphine (75 μL, 0.026 mmol, 10 wt % in hexane) was added and the reaction was stirred for 16 hours. Purification afforded 4-(5-cyano-1-methyl-1H-pyrrol-2-yl)-N-cyclopropyl-2,5-difluorobenzenesulfonamide (33 mg) HPLC purity 99.0% at 210-370 nm, 9.1 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min. HRMS: calcd for C15H13F2N3O2S−H+, 336.06238; found (ESI-FTMS, [M−H]1−), 336.06247

reactant | 4-bromo-N-cyclopropyl-2,5-difluorobenzenesulfonamide | 0.5 mmol, 150 mg | BrC1=CC(=C(C=C1F)S(=O)(=O)NC1CC1)F | C9H8BrF2NO2S
reactant | 5-cyano-1-methyl-1H-pyrrol-2-ylboronic acid | 0.60 mmol, 90 mg | C(#N)C1=CC=C(N1C)B(O)O | C6H7BN2O2
reactant | potassium fluoride | 1.65 mmol, 96 mg | [F-].[K+]
reactant | Tri-t-butylphosphine | 0.026 mmol, 75 μL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | tris(dibenzylideneacetone)dipalladium | 0.013 mmol, 12 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(5-cyano-1-methyl-1H-pyrrol-2-yl)-N-cyclopropyl-2,5-difluorobenzenesulfonamide | 33 mg | C(#N)C1=CC=C(N1C)C1=CC(=C(C=C1F)S(=O)(=O)NC1CC1)F | C15H13F2N3O2S
